US07420066B2
Preparation of 2-(3-bromo-phenyl)-4,5-dihydro-1H-imidazole
To a solution of 3-bromobenzonitrile (500 mg, 2.75 mmol) in ethylenediamine (3.5 mL) was added sulfur (44 mg, 1.4 mmol). The mixture was refluxed overnight then poured onto ice water, which caused the product to precipitate as a white solid. The product was isolated by vacuum filtration and dried in a vacuum oven (545 mg, 88%). 1H-NMR (CDCl3) δ 7.93 (t, J=1.7 Hz, 1H), 7.68 (ddd, J=7.8, 1.2, 1.2 Hz, 1H), 7.56 (dddd, J=7.8, 0.9, 0.9, 0.9 Hz, 1H), 7.26 (dd, J=10.5, 8.0 Hz, 1H), 3.78 (br s, 4H).

reactant | 3-bromobenzonitrile | 2.75 mmol, 500 mg | BrC=1C=C(C#N)C=CC1 | C7H4BrN
reactant | sulfur | 1.4 mmol, 44 mg | [S] | S
reactant | ethylenediamine | 3.5 mL | C(CN)N | C2H8N2
product | 2-(3-bromo-phenyl)-4,5-dihydro-1H-imidazole | BrC=1C=C(C=CC1)C=1NCCN1 | C9H9BrN2
